* File: inv.pex.netlist.pex
* Created: Wed Mar 19 01:11:42 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_INV_GND! 2 9 11 16 23
c22 23 0 2.32334e-19
c23 16 0 0.0094828f
c24 11 0 0.00599875f
c25 9 0 0.00433421f
c26 2 0 0.00324481f
r27 18 23 0.0409621
r28 18 20 0.150585
r29 14 23 0.00614747
r30 14 16 0.516846
r31 11 20 0.537248
r32 9 16 15
r33 2 20 30
.ends

.subckt PM_INV_OUT 1 4 6 9 12 16 21 22
c38 21 0 1.86001e-19
c39 9 0 1.6038e-19
c40 4 0 6.92103e-19
r41 22 24 0.0132206
r42 16 18 0.39735
r43 16 21 0.39152
r44 12 20 0.481871
r45 9 24 1.7
r46 7 21 0.075256
r47 7 9 0.089363
r48 6 20 0.075256
r49 6 9 0.075253
r50 4 12 15
r51 1 18 30
r52 1 16 10
.ends

.subckt PM_INV_VDD! 2 8 11 16 25
c33 16 0 0.0208493f
c34 11 0 0.00621607f
r35 20 25 0.038128
r36 20 22 0.144756
r37 16 19 0.39735
r38 14 25 0.00830081
r39 14 19 0.323514
r40 11 22 0.332258
r41 8 16 10
r42 8 19 30
r43 2 22 30
.ends

.subckt PM_INV_IN 1 2 6 9 12 18 19 24 26 30
c47 30 0 4.35327e-19
r48 26 30 0.0264413
r49 21 30 1.7
r50 21 24 0.00075795
r51 16 24 25
r52 16 18 5.62869
r53 13 19 2.62536
r54 12 19 2.62536
r55 9 19 0.682285
r56 9 18 12.1024
r57 6 13 18.0544
r58 4 12 35.6128
r59 2 6 41.664
r60 1 4 17.36
.ends

